US05173484
a) 3-Aminomethyl-1-benzyl-3-hydroxypyrrolidine
9.7 g (51.3 mmol) of 5-benzyl-5-aza-1-oxaspiro[2,4]heptane (U.S. Pat. No. 4,508,724) are added dropwise to 50 ml of ammonia solution (25%) and the mixture is stirred overnight at room temperature. The batch is then concentrated and the residue is distilled.

reactant | 5-benzyl-5-aza-1-oxaspiro[2,4]heptane | 51.3 mmol, 9.7 g | C(C1=CC=CC=C1)N1CC2(CO2)CC1 | C12H15NO
reactant | ammonia | 50 ml | N | H3N
product | 3-Aminomethyl-1-benzyl-3-hydroxypyrrolidine | NCC1(CN(CC1)CC1=CC=CC=C1)O | C12H18N2O
